datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8][C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8](=[C:7]([H:10])[H:11])[C:9]([H:12])([H:13])[H:14],3.3472
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([S:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:9])([H:10])[H:11])([S:8][H:13])[H:12],142.925
[C:0](#[C:1][H:3])[H:2].[C:4](=[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1][H:3])([H:2])[C:6]([C:5](=[C:4]([H:8])[H:9])[H:10])([C:7]([H:12])([H:13])[H:14])[H:11],53.6389
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]1([H:16])([H:17])[C:9]([H:18])([H:19])[C:10]2([H:20])[C:11]([H:21])([H:22])[C:12]([H:23])([H:24])[C:13]([H:25])([H:26])[C:14]2([H:27])[C:15]1([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:20])[H:5].[C:8]1([H:16])([H:17])[C:9]([H:18])([H:19])[C:10]2[C:11]([H:21])([H:22])[C:12]([H:23])([H:24])[C:13]([H:25])([H:26])[C:14]2([H:27])[C:15]1([H:28])[H:29],69.4544
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:9],6.94544
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21])[H:7],29.7482
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15](=[C:16]([C:17]([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])[H:23])([H:21])[H:22]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16](=[C:15]([H:21])[H:22])[H:23])([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])([H:7])[H:8],81.1696
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:7])([H:5])[H:6],83.2616
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18])([H:10])[H:11])([H:9])[H:12])([H:6])([H:7])[H:8],144.766
[C:0]([O:1][O:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([O:1][C:10]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[O:2][C:3]([H:7])([H:8])[H:9],53.6899
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])([C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:19])([H:4])([H:5])[H:6].[C:13](=[C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])[H:18],0.0
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:13])([H:15])[H:16])[H:14])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11],125.9384
[C:0]([C:1]([O:2][H:7])([H:5])[H:6])([H:3])[H:4].[O:8][O:9]>>[C:0](=[C:1]([O:2][H:7])[H:6])([H:3])[H:4].[H:5][O:8][O:9],-8.2634
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([S:2][H:5])[H:12])([H:3])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[H:13])([H:9])([H:10])[H:11],0.8368
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[O:11]>>[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])[H:10])[H:7])[H:6])[H:5].[H:8][O:11],0.0
[C:0]1([H:3])([H:4])[S:1][S:2]1.[C:5]([H:6])([H:7])[H:8]>>[C:0]([S:1][S:2][C:5]([H:6])([H:7])[H:8])([H:3])[H:4],30.45952
[C:0](=[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[H:11]>>[C:0](=[C:1]([C:2]([C:3]=[O:4])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][H:11],10.8784
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[H:30])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:25]([C:24](=[C:23]([H:27])[H:28])[H:29])([C:26]([H:31])([H:32])[H:33])[H:30])[H:13])([H:11])[H:12],46.275
